US07235547B2
(5-Cyclopropylmethoxy-2-nitro-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Compound A14)
Compound A14 was prepared via the di-Boc-compound from 5-cyclopropyl-meth-oxy-2-nitro-4-trifluoromethyl-phenylamine [prepared by stirring commercially available 5-chloro-2-nitro-4-trifluoromethyl-phenylamine [CAS-No. 35375-74-7], (hydroxy-methyl)cyclopropane and KOH in DMSO at 23° C. for 4 days and at 60° C. for 7 days] (4.49 g, 16.3 mmol) and Boc20 (7.45 g, 34.1 mmol), followed by treatment with 2 eq. TFA in CH2Cl2 according to the general procedure A (method c).

reactant | 5-cyclopropyl-meth-oxy-2-nitro-4-trifluoromethyl-phenylamine | C1(CC1)C=1C(=CC(=C(C1)NOC)[N+](=O)[O-])C(F)(F)F | C11H11F3N2O3
reactant | 5-chloro-2-nitro-4-trifluoromethyl-phenylamine | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C7H4ClF3N2O2
reactant | (hydroxy-methyl)cyclopropane | OCC1CC1 | C4H8O
reactant | KOH | [OH-].[K+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (5-Cyclopropylmethoxy-2-nitro-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC1CC1)C(F)(F)F)[N+](=O)[O-])=O | C16H19F3N2O5
